US07465750B2
Dimethylamine in tetrahydrofuran (2M, 15 mL) was added to a solution of 4,6-dichloro-N-phenyl-2-pyrimidinamine (0.715 g, 2.97 mmol) in tetrahydrofuran (30 mL) and N,N-diisopropylethylamine (0.52 mL). The resulting mixture was stirred at room temperature overnight. The solvent was removed and the crude material was purified by flash chromatography on silica gel, eluting with ethyl acetate/hexane (1:9). The eluent was removed, giving 6-chloro-N4, N4-dimethyl-1-phenyl-2,4-pyrimidinediamine (0.592 g, 2.39 mmol, 80%, Rf=0.3).

reactant | Dimethylamine | CNC | C2H7N
reactant | 4,6-dichloro-N-phenyl-2-pyrimidinamine | 2.97 mmol, 0.715 g | ClC1=NC(=NC(=C1)Cl)NC1=CC=CC=C1 | C10H7Cl2N3
solvent | tetrahydrofuran | 2M, 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | N,N-diisopropylethylamine | 0.52 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 6-chloro-N4, N4-dimethyl-1-phenyl-2,4-pyrimidinediamine | 2.39 mmol, 0.592 g, 80% | ClC1=CC(=NC(N1C1=CC=CC=C1)N)N(C)C | C12H15ClN4
